US05763621
2-[1-(1-Cyclopropyicarbamoyl-2,2-dimethyl-propylcarbamoyl)-3-methyl-butyl]-acrylic acid
2-[1-(1-Cyclopropylcarbamoyl-2,2-dimethyl-propylcarbamoyl)-3-methyl-butyl]-malonic acid dibenzyl ester (14.53 g, 25.7 mmol) was dissolved in ethanol (200 ml) and the solution was placed under a blanket of argon. 10% Palladium on charcoal (3.2 g) was added and a fine stream of hydrogen gas was passed through the suspension for 3h with stirring. TLC showed that all the starting material had been consumed. The system was purged with argon and the catalyst was removed by filtration. The filtrate was cooled and stirred in an ice bath and treated with piperidine (2.39 g, 28.1 mmol) which was added dropwise, followed by 37% formaldehyde solution (22.6 ml, ca. 257 mmol). The reaction mixture was allowed to warm slowly to room temperature, then stirred overnight. The solvents were removed under reduced pressure and the residual oil was partitioned between ethyl acetate (300 ml) and 1 M hydrochloric acid (300 ml). The organic layer was separated, washed with 1M HCl and brine, dried over MgSO4, filtered and evaporated to dryness. The remaining pale brown foam (4.40 g, crude) contained a number of minor impurities but was used in Step C without purification. 1H-NMR; δ (CDCl3), 8.34 (1H, d, J=10.0 Hz), 7.37 (1H, m), 6.47 (1H, s), 5.99 (1H, s), 4.50 (1H, d, J=9.9 Hz), 4.07 (1H, m), 2.73 (1H, m), 1.79 (1H, m), 1.52 (2H, m), 1.00-0.82 (1 5H, br m), 0.78 (2H, m) and 0.55 (2H, m).

reactant | 2-[1-(1-Cyclopropylcarbamoyl-2,2-dimethyl-propylcarbamoyl)-3-methyl-butyl]-malonic acid dibenzyl ester | 25.7 mmol, 14.53 g | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)C(CC(C)C)C(NC(C(C)(C)C)C(NC1CC1)=O)=O)=O | C32H42N2O6
reactant | hydrogen | [H][H] | H2
reactant | piperidine | 28.1 mmol, 2.39 g | N1CCCCC1 | C5H11N
reactant | formaldehyde | ca. 257 mmol, 22.6 ml | C=O | CH2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | 3.2 g | [Pd] | Pd
product | 2-[1-(1-Cyclopropyicarbamoyl-2,2-dimethyl-propylcarbamoyl)-3-methyl-butyl]-acrylic acid | C1(CC1)NC(=O)C(C(C)(C)C)NC(=O)C(CC(C)C)C(C(=O)O)=C | C18H30N2O4
